US05296433
Preparation of (C6F5)3B.H2O
A mixture of 0.566 gram (1 mmol) (C6F5)3B.3H2O as prepared in Example 1 and 1.024 grams (2 mmol) (C6F5)3B in 10 mL dichloromethane was stirred for 15 minutes and then evaporated to dryness under vacuum. A quantitative yield of the product remained and was stored under dry nitrogen.

reactant | (C6F5)3B.3H2O | 1 mmol, 0.566 gram | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F.O.O.O
reactant | (C6F5)3B | 2 mmol, 1.024 grams | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F | C18BF15
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (C6F5)3B.H2O | quantitative yield | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F.O | InChI=1S/C18BF15.H2O/c20-4-1(5(21)11(27)16(32)10(4)26)19(2-6(22)12(28)17(33)13(29)7(2)23)3-8(24)14(30)18(34)15(31)9(3)25;/h;1H2
